US04929741
A solution of 13.8 g (55 mm ol) of methyl 4-(2,5-dimethoxyphenyl)-4-hydroxy-2-butynoate in 80 ml of methylene chloride is added dropwise at 0° to a suspension of 139 g (1.6 mol) of manganese dioxide in 350 ml of methylene chloride The reaction mixture was stirred at 0° for 1 hour, filtered over magnesium sulphate and concentrated. Crystallization of the residue from methylene chloride/ether yielded methyl 3-(2,5-dimethoxybenzoyl)propiolate of melting point 70°-71°.

reactant | methyl 4-(2,5-dimethoxyphenyl)-4-hydroxy-2-butynoate | 13.8 g | COC1=C(C=C(C=C1)OC)C(C#CC(=O)OC)O | C13H14O5
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 350 ml | C(Cl)Cl | CH2Cl2
catalyst | manganese dioxide | 1.6 mol, 139 g | [O-2].[O-2].[Mn+4]
product | methyl 3-(2,5-dimethoxybenzoyl)propiolate | COC1=C(C(=O)C#CC(=O)OC)C=C(C=C1)OC | C13H12O5
